US08008483B2
c) Preparation of 1-[4-(methylamino)-6-phenyl-1,3,5-triazin-2-yl]-4-piperidinecarboxylic acid
A mixture of 4-chloro-N-methyl-6-phenyl-1,3,5-triazin-2-amine (10.0 g, 45.3 mmol, 1.00 equiv) dissolved in 1:1 CH3CN:H2O (60 mL) was cooled (0° C.), and 4-piperidinecarboxylic acid (11.7 g, 90.6 mmol, 2.00 equiv) was added. The pH of the reaction mixture was adjusted to 9-10 by treating with 1 N NaOH. The pH was maintained at 9-10 for 24 hours (product formation monitored by LCMS). The mixture was diluted with water, and filtered to provide the crude product (filtered solid was washed with additional water). The resulting solid was purified by HPLC to afford 9.1 g of the title compound. MS (ES+): m/e 314.2 [M+H]+.

reactant | 4-chloro-N-methyl-6-phenyl-1,3,5-triazin-2-amine | 45.3 mmol, 10.0 g, 1.00 equiv | ClC1=NC(=NC(=N1)C1=CC=CC=C1)NC | C10H9ClN4
reactant | 4-piperidinecarboxylic acid | 90.6 mmol, 11.7 g, 2.00 equiv | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | CH3CN | CC#N | C2H3N
solvent | water | O | H2O
solvent | H2O | 60 mL | O | H2O
product | 1-[4-(methylamino)-6-phenyl-1,3,5-triazin-2-yl]-4-piperidinecarboxylic acid | 9.1 g | CNC1=NC(=NC(=N1)C1=CC=CC=C1)N1CCC(CC1)C(=O)O | C16H19N5O2
